US06046192
(S)-4-(2-Amino-1,2,3,4-tetrahydronaphthalen-7-yloxy)-N,N-dimethylbutyramide (196 mg) and triethylamine (270 μl) were dissolved in N,N-dimethylformamide (3 ml), and a solution of 4'-benzyloxy-2-bromoacetophenone (195 mg) in N,N-dimethylformamide (2 ml) was added to the solution under ice-cooling with stirring. After reaction for 15 minutes, sodium borohydride (240 mg) and ethanol (3 ml) were added to the reaction mixture under ice-cooling with stirring. After reaction for 2 hours, the reaction mixture was poured into ice-water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. To the resulting residue was added a solution of triethanolamine (200 mg) in tetrahydrofuran (5 ml), and the mixture was heated under reflux for 16 hours. After cooling, water was poured into the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: ethyl acetate/ethanol=6/1) gave 4-[(2S)-2-[[(2RS)-2-(4-benzyloxyphenyl)-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylbutyramide (85 mg) as an amorphous.

reactant | (S)-4-(2-Amino-1,2,3,4-tetrahydronaphthalen-7-yloxy)-N,N-dimethylbutyramide | 196 mg | N[C@@H]1CC2=CC(=CC=C2CC1)OCCCC(=O)N(C)C | C16H24N2O2
reactant | triethylamine | 270 μl | C(C)N(CC)CC | C6H15N
reactant | 4'-benzyloxy-2-bromoacetophenone | 195 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
reactant | sodium borohydride | 240 mg | [BH4-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-[(2S)-2-[[(2RS)-2-(4-benzyloxyphenyl)-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylbutyramide | 85 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CN[C@@H]1CC2=CC(=CC=C2CC1)OCCCC(=O)N(C)C)O | C31H38N2O4
